US06489321B1
2-(2-Hydroxyethyl)-5-(4-acetamidobenzenesulfonyl)-1,5-benzothiazepine
To a mixture of 2-(2-hydroxyethyl)-1,5-benzothiazepine as prepared in Example 2 (3 g, 14.4 mM) in pyridine (30 ml) was slowly added N-acetylsulfanilyl chloride (6.7 g, 28.7 mM). The resulting mixture was stirred at room temperature for 16 hours and the excess pyridine was removed under reduced pressure. The residual semi-solid was diluted with H2O (80 ml) and extracted with CH2Cl2 (2×80 ml). The combined methylene chloride extracts were dried (MgSO4), filtered and evaporated in vacuo to give a crude oil. Flash column chromatography (EM silica gel 60; 2% MeOH in CH2Cl2) gave the desired product as a white solid (2.9 g, 50%). m/z (MH+)407

reactant | 2-(2-hydroxyethyl)-1,5-benzothiazepine | OCCC=1SC2=C(N=CC1)C=CC=C2 | C11H11NOS
reactant | N-acetylsulfanilyl chloride | 28.7 mM, 6.7 g | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
reactant | MeOH | CO | CH4O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(2-Hydroxyethyl)-5-(4-acetamidobenzenesulfonyl)-1,5-benzothiazepine | 2.9 g, 50% | OCCC1SC2=C(N(C=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)C=CC=C2 | C19H20N2O4S2
